US04983723
To 30 ml of an anhydrous dimethylformamide (hereinafter "DMF") solution containing 588 mg of imidazole and 1.2 g of 4-(4-hydroxy-2,6,6-trimethylcyclohex-1-enyl)but-3-en-2-one was added dropwise 15 ml of an anhydrous DMF solution containing 1.3 g of t-butyldimethylchlorosilane at room temperature in a nitrogen atmosphere. After the dropwise addition, the mixture was stirred under the same conditions for 15 hours. Diethyl ether was added to the reaction mixture, and the mixture was washed several times with water cooled with ice. The organic layer was dried over anhydrous magnesium sulfate, and the solvent, etc. were removed by distillation under reduced pressure. The residue was purified by silica gel column chromatography to obtain 1.5 g (yield: 78%) of 4-[4-(t-butyldimethylsilyl)oxy-2,6,6-trimethylcyclohex-1-enyl]-but-3-en-2-one.

reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | imidazole | 588 mg | N1C=NC=C1 | C3H4N2
reactant | 4-(4-hydroxy-2,6,6-trimethylcyclohex-1-enyl)but-3-en-2-one | 1.2 g | OC1CC(=C(C(C1)(C)C)C=CC(C)=O)C | C13H20O2
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | t-butyldimethylchlorosilane | 1.3 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 4-[4-(t-butyldimethylsilyl)oxy-2,6,6-trimethylcyclohex-1-enyl]-but-3-en-2-one | 1.5 g, yield: 78% | [Si](C)(C)(C(C)(C)C)OC1CC(=C(C(C1)(C)C)C=CC(C)=O)C | C19H34O2Si
